US07196102B2
Step 2) 4-Cyclopropylmethoxy-3-(4′-methoxyphenyl)benzenecarboxaldehyde:
To a degassed solution of 3-bromo-4-cyclopropylmethoxybenzaldehyde (1.53 g, 6 mmol), 4-methoxybenzeneboronic acid (1.22 g, 8 mmol) and potassium carbonate (2.74 g, 20 mmol) in toluene/ethanol 2/1 (40 mL), Pd(PPh3)4 (100 mg) was added and the mixture was degassed for further 5 minutes. The mixture was then refluxed for 12 hours. The solid is filtered off, and the solvent partitioned between ethyl acetate and water and extracted. The organic solvent was removed under reduced pressure, dried over sodium sulphate and purified by column chromatography on silica (hexane/ethyl acetate 8/2) to afford 1.52 g of product.

reactant | 3-bromo-4-cyclopropylmethoxybenzaldehyde | 6 mmol, 1.53 g | BrC=1C=C(C=O)C=CC1OCC1CC1 | C11H11BrO2
reactant | 4-methoxybenzeneboronic acid | 8 mmol, 1.22 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 20 mmol, 2.74 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol | 40 mL | C1(=CC=CC=C1)C.C(C)O
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Cyclopropylmethoxy-3-(4′-methoxyphenyl)benzenecarboxaldehyde | 1.52 g | C1(CC1)COC1=C(C=C(C=C1)C=O)C1=CC=C(C=C1)OC | C18H18O3
